US06127354
N-Methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester (5.17 g, 11.4 mmol) was dissolved in dichloromethane (12 ml). The solution was cooled to 0° C. Trifluoroacetic acid (12 ml) was added. The reaction mixture was stirred for 15 min at 0° C. The solvent was removed in vacuo at 20° C. The residue was codistilled with dichloromethane (3×60 ml). The crude product was purified by flash chromatography on silica (80 g), using dichloromethane/methanol/25% aqueous (100:10:1) ammonia as eluent, to give 1.91 g of (2R)-N-methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide.

reactant | N-Methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester | 11.4 mmol, 5.17 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC=1SC=CC1)C)=O)C)=O | C26H32N2O3S
reactant | Trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | (2R)-N-methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide | 1.91 g | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCC=1SC=CC1 | C21H24N2OS
